US06958343B2
a) 6-Amino-2-[[(2-methyl-4-thiazolyl)methyl]thio]-4(3H)-pyrimidinone
4-Amino-6-hydroxy-2-mercaptopyrimidine monohydrate (0,161 g) and sodium hydroxide (0.08 g) were stirred in dry DMF (4 ml) for 20 mins. 4-Chloromethyl, 2-methylthiazole hydrochloride hydrate (0.2 g) was added and the mixture stirred for 3 hr then poured onto water (150 ml) to give a solution. The subtitled product crystallised and was collected, washed with water and dried (0.2 g).

reactant | 4-Amino-6-hydroxy-2-mercaptopyrimidine monohydrate | 0,161 g | O.NC1=NC(=NC(=C1)O)S
reactant | sodium hydroxide | 0.08 g | [OH-].[Na+]
reactant | 2-methylthiazole hydrochloride hydrate | 0.2 g | O.Cl.CC=1SC=CN1
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 6-Amino-2-[[(2-methyl-4-thiazolyl)methyl]thio]-4(3H)-pyrimidinone | NC1=CC(NC(=N1)SCC=1N=C(SC1)C)=O | C9H10N4OS2
